US06369057B1
6,7-Dimethoxy-3-methyl-3,4-dihydroquinoxalin-2(1H)-one
4,5-Dimethoxy-1,2-dinitrobenzene (34.2 g, 0.15 mol) was hydrogenated in 500 ml of methanol with Raney nickel catalysis using 1 atm hydrogen. After the calculated amount of hydrogen had been taken up, the process was stopped, the catalyst was removed by filtration with suction, and the solvent was stripped off in vacuo. To remove the water completely, the mixture was taken up twice in methanol and reconcentrated. 4,5-Dimethoxy-1,2-phenylenediamine (24.0 g), which remained as a brown oil, was refluxed for 48 hours in 200 ml of ethanol (96%) together with 17.1 ml (0.15 mol) of methyl 2-chloropropionate, with an addition of 21.0 ml (0.15 mol) of triethylamine. The solution, which was very dark, was concentrated, the concentrate was taken up in ethyl acetate, the mixture was washed twice with water and dried (sodium sulfate), and the solvent was stripped off in vacuo. The crude product was crystallized by stirring with diethyl ether (6.2 g, 19%). A analytically pure sample of melting point 151° C. was obtained by silica gel chromatography using ethyl acetate as the eluent.

reactant | 4,5-Dimethoxy-1,2-dinitrobenzene | 0.15 mol, 34.2 g | COC1=CC(=C(C=C1OC)[N+](=O)[O-])[N+](=O)[O-] | C8H8N2O6
reactant | hydrogen | [H][H] | H2
reactant | methyl 2-chloropropionate | 0.15 mol, 17.1 ml | ClC(C(=O)OC)C | C4H7ClO2
reactant | triethylamine | 0.15 mol, 21.0 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 500 ml | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6,7-Dimethoxy-3-methyl-3,4-dihydroquinoxalin-2(1H)-one | COC=1C=C2NC(C(NC2=CC1OC)=O)C | C11H14N2O3
